US07560571B2
To a suspension of 0.024 g (0.222 mmol) of 10% palladium-on-charcoal in 63 cm3 of methanol is added, at a temperature in the region of 20° C., 0.331 g (0.956 mmol) of 4-tert-butyloxycarbonylamino-3-(4-nitrophenyl)-1H-pyrrole-2-carboxamide. After hydrogenating for 5 hours in an autoclave under 4 bar of hydrogen, at a temperature in the region of 40° C., the reaction mixture is filtered. The catalyst is rinsed with twice 15 cm3 of methanol and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa) to give 0.3 g of 4-tert-butyloxycarbonylamino-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide in the form of a white solid melting at about 142° C.; EI: m/z=316 M+; m/z=260 [M-tBu]+; m/z=243 [M-OtBu]+; m/z=199 [243-CONH2]+; m/z=57: [tBu]+ base peak.

reactant | 4-tert-butyloxycarbonylamino-3-(4-nitrophenyl)-1H-pyrrole-2-carboxamide | 0.956 mmol, 0.331 g | C(C)(C)(C)OC(=O)NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 63 cm3 | CO | CH4O
catalyst | palladium-on-charcoal | 0.222 mmol, 0.024 g | [Pd] | Pd
product | 4-tert-butyloxycarbonylamino-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide | 0.3 g | C(C)(C)(C)OC(=O)NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)N | C16H20N4O3
